US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(5-methyl-furan-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 5-Methyl-2-furancarboxaldehyde (17.9 mg, 0.163 mmol) were reacted to produce 19 mg (30%) of the title compound. mp: 200-201° C., 1H NMR (300 MHz, DMSO-d6): 13.17 (s, 1H), 8.00 (s, 1H), 7.74 (s, 1H), 7.20 (s, 1H), 7.06 (s, 1H), 6.36 (s, 1H), 6.33 (s, 1H), 5.16 (t, J=8 Hz, 1H), 3.32 (s, 1H), 2.87 (s, 1H), 2.73 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.40 (s, 3H), 2.23 (d, J=8 Hz, 1H), 1.37 (d, J=8 Hz, 1H). MS: 428, 430 (M+H), HPLC: 2.39 (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 5-Methyl-2-furancarboxaldehyde | 0.163 mmol, 17.9 mg | CC1=CC=C(O1)C=O | C6H6O2
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(5-methyl-furan-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 19 mg, 30% | BrC=1C(=C2C(=NC1)NC(=N2)C=2OC(=CC2)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C19H18BrN5O2
